US08633313B2
To a stirred solution of methyl 3-(3-ethoxy-3-oxopropanamido)picolinate (3.7 g, 14.67 mmol) in EtOH (50 mL) was added sodium ethanolate (6.56 mL, 17.60 mmol). The reaction was stirred at rt for 1 h. After this time the reaction was concentrated in vacuo and dried under vacuum overnight to give sodium 3-(ethoxycarbonyl)-1,5-naphthyridine-2,4-bis(olate): 1H NMR (400 MHz, DMSO-d6) δ ppm 1H NMR (400 MHz, DMSO-d6) δ ppm 8.14 (1H, dd, J=4.5, 1.6 Hz), 7.46 (1H, dd, J=8.2, 1.6 Hz), 7.29 (1H, dd, J=8.2, 4.3 Hz), 4.08 (2H, q, J=7.0 Hz), 1.13-1.24 (3H, m).

reactant | methyl 3-(3-ethoxy-3-oxopropanamido)picolinate | 14.67 mmol, 3.7 g | C(C)OC(CC(=O)NC=1C(=NC=CC1)C(=O)OC)=O | C12H14N2O5
reactant | sodium ethanolate | 17.60 mmol, 6.56 mL | C(C)[O-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | sodium 3-(ethoxycarbonyl)-1,5-naphthyridine-2,4-bis(olate) | C(C)OC(=O)C=1C(=NC2=CC=CN=C2C1[O-])[O-].[Na+].[Na+] | InChI=1S/C11H10N2O4.2Na/c1-2-17-11(16)7-9(14)8-6(13-10(7)15)4-3-5-12-8;;/h3-5H,2H2,1H3,(H2,13,14,15);;/q;2*+1/p-2
